US06303742B1
(1) Synthesis of 2,4-dinitrophenyl cinnamate
66.64 g (0.4 mole) of cinnamoyl chloride and 300 g of methyl ketone (hereinafter referred to as MEK) were placed in a reaction vessel to be stirred by heating at 60° C. under a nitrogen current. 73.64 g (0.4 mole) of 2,4-dinitrophenol, 50 g of pyridine, and 500 g of MEK were added dropwise to the above reaction vessel using a dropping funnel. After that, reflux stirring was conducted for approximately 20 hours under a nitrogen current. After the completion of the reaction, the precipitate was separated by filtration. The filtrate was concentrated until crystals separated out and poured into methanol. 90 g of light yellow colored needle-like crystals (2,4-dinitrophenyl cinnamate) were yielded.

reactant | cinnamoyl chloride | 0.4 mole, 66.64 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | 2,4-dinitrophenol | 0.4 mole, 73.64 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4N2O5
reactant | pyridine | 50 g | N1=CC=CC=C1 | C5H5N
solvent | MEK | 500 g | CC(=O)C | C3H6O
solvent | methyl ketone | 300 g | CC(=O)C | C3H6O
product | 2,4-dinitrophenyl cinnamate | 90 g | C(C=CC1=CC=CC=C1)(=O)OC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C15H10N2O6
